US04053601
Hydrogen chloride was bubbled into a gently boiling solution of 3-(4-chloro-2-hydroxybenzoyl)propionic acid (12.0 g, 0.053 mole) in dry ethanol (21.2 cc) until esterification was complete. The product crystallised from ether to give ethyl 3-(4-chloro-2-hydroxybenzoyl)propionate (13.29g, 98%, m.p. 68°-69°).

reactant | Hydrogen chloride | Cl | ClH
reactant | 3-(4-chloro-2-hydroxybenzoyl)propionic acid | 0.053 mole, 12.0 g | ClC1=CC(=C(C(=O)CCC(=O)O)C=C1)O | C10H9ClO4
reactant | ethanol | 21.2 cc | C(C)O | C2H6O
product | ethyl 3-(4-chloro-2-hydroxybenzoyl)propionate | 13.29g, 98% | ClC1=CC(=C(C(=O)CCC(=O)OCC)C=C1)O | C12H13ClO4
